US05681858
To a cooled (-30° C.) solution of ethyl 3-oxocyclobutanecarboxylate (J. Org. Chem. 1988, 53, 3481) (18.1 g, 130 mmol) in ethanol (100 ml) was added NaBH4 (4.92 g, 130 mmol) in small potions over 0.25 h. The reaction mixture was stirred at -30° C. for 0.5 h and then at room temperature for 0.5 h. The reaction mixture was poured into water (200 ml) and extracted with ether (500 ml). The organic phase was washed with brine (200 ml), dried (MgSO4) and concentrated. The residue was distilled to afford 15.1 g (81%) of ethyl cis-3-hydroxycyclobutanecarboxylate as a colorless oil: bp 86°-88° C. (1 mmHg); 1H NMR δ4.24 (m, 3H), 2.66-2.52 (m, 3H), 2.28-2,09 (m, 2H), 2.03 (br s, 1H), 1.26 (t, J=7.3 Hz, 3H).

reactant | ethyl 3-oxocyclobutanecarboxylate | 130 mmol, 18.1 g | O=C1CC(C1)C(=O)OCC | C7H10O3
reactant | NaBH4 | 130 mmol, 4.92 g | [BH4-].[Na+]
reactant | water | 200 ml | O | H2O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | ethyl cis-3-hydroxycyclobutanecarboxylate | 15.1 g, 81% | O[C@H]1C[C@H](C1)C(=O)OCC | C7H12O3
